US09284284B2
[3-((3R,6R)-5-Amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-(7-chloro-pyrido[3,2-d]pyrimidin-4-yl)-amine di-hydrochloride
To a solution of [(2R,5R)-5-(5-amino-2-fluoro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (CAS registry 1262859-70-0) (138 mg, 0.34 mmol) and 4,7-dichloro-pyrido[3,2-d]pyrimidine (CAS registry 917757-12-1) (75 mg, 0.374 mmol) in tBuOH (2 ml) was added 0.1 ml 4N HCl in dioxane and the reaction mixture was heated in a microwave oven for 1 h at 100° C. The reaction mixture was basified with saturated NaHCO3 solution and the product was extracted with EtOAc. Combined extracts were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was dissolved in THF, acidified with 1N HCl in Et2O, and concentrated. The remaining yellow solid was two times triturated with Et2O and subsequently dried to afford the title compound as light yellow amorphous solid.

reactant | [(2R,5R)-5-(5-amino-2-fluoro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.34 mmol, 138 mg | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=C(C=CC(=C1)N)F)(C(F)(F)F)C)=O | C18H23F4N3O3
reactant | 4,7-dichloro-pyrido[3,2-d]pyrimidine | 0.374 mmol, 75 mg | ClC=1C2=C(N=CN1)C=C(C=N2)Cl | C7H3Cl2N3
reactant | HCl | 4N, 0.1 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tBuOH | 2 ml | CC(C)(C)O | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [3-((3R,6R)-5-Amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-(7-chloro-pyrido[3,2-d]pyrimidin-4-yl)-amine di-hydrochloride | Cl.Cl.NC1=N[C@](CO[C@]1(C(F)(F)F)C)(C)C=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=C(C=N2)Cl | InChI=1S/C20H17ClF4N6O.2ClH/c1-18(8-32-19(2,17(26)31-18)20(23,24)25)12-6-11(3-4-13(12)22)30-16-15-14(28-9-29-16)5-10(21)7-27-15;;/h3-7,9H,8H2,1-2H3,(H2,26,31)(H,28,29,30);2*1H/t18-,19+;;/m0../s1
